US08022062B2
2-Aminomethyl-5-(3,3-dimethyl-butyl)-pyridine:
Dissolve 5-(3,3-dimethyl-but-1-ynyl)-2-cyano-pyridine (255 mg, 1.5 mmol) in methanol (15 mL). Add 10% Pd/C (Degussa type E101, 230 mg) and submit the mixture to hydrogenation under atmospheric pressure (balloon) overnight. Filter the catalyst through Celite® and concentrate the filtrate in vacuo to provide the title compound as a solid (231 mg, 87%) that was used without any further purification. MS (ES+) m/z: 193 (M+H)+.

reactant | 5-(3,3-dimethyl-but-1-ynyl)-2-cyano-pyridine | 1.5 mmol, 255 mg | CC(C#CC=1C=CC(=NC1)C#N)(C)C | C12H12N2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 230 mg | [Pd] | Pd
product | 2-Aminomethyl-5-(3,3-dimethyl-butyl)-pyridine | 231 mg, 87% | NCC1=NC=C(C=C1)CCC(C)(C)C | C12H20N2
